US04489003
11.55 g (0.05 mol) of 6-(trifluoromethyl)-isatoic acid anhydride and 5.75 g (0.05 mol) of L-proline in 100 ml of dimethyl sulphoxide are heated to 70° for 1 hour, the solvent is removed in a high vacuum and the oil obtained is heated to 170° for 15 minutes. The crude product is purified by chromatography on silica gel using methylene chloride and mixtures of methylene chloride and ethyl acetate (5%, 10%, 15%) for the elution. After recrystallization of the crude product from ethyl acetate/diethyl ether there is obtained pure (S)-1,2,3,11a-tetrahydro-6-(trifluoromethyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine-5,11(10H)-dione of melting point 176-178°.

reactant | 6-(trifluoromethyl)-isatoic acid anhydride | 0.05 mol, 11.55 g | FC(C=1C=CC=C2C1C(=O)OC(N2)=O)(F)F | C9H4F3NO3
reactant | L-proline | 0.05 mol, 5.75 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
solvent | dimethyl sulphoxide | 100 ml | CS(=O)C | C2H6OS
product | (S)-1,2,3,11a-tetrahydro-6-(trifluoromethyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine-5,11(10H)-dione | FC(C1=CC=CC2=C1C(N1[C@H](C(N2)=O)CCC1)=O)(F)F | C13H11F3N2O2
